US07915424B2
3-Bromo-5-phenylethynyl-pyridine
Add phenylacetylene (1.11 mL, 10.10 mmol) dropwise to a mixture of 3,5-dibromopyridine (2.05 g, 8.65 mmol), bis(triphenylphosphine)palladium (II) dichloride (300 mg, 0.427 mmol), and copper (I) iodide (160 mg, 0.840 mmol) in triethylamine (8.50 mL, 60.98 mmol) and stir for 3 h at room temperature. Dilute the reaction mixture with ethyl acetate and wash with a saturated aqueous solution of sodium chloride. Dry (sodium sulfate), filter and concentrate. Purify the residue by silica gel chromatography, eluting with a gradient of 100:0 to 90:10 hexanes:ethyl acetate, to give the title compound (710 mg, 32%).

reactant | phenylacetylene | 10.10 mmol, 1.11 mL | C1(=CC=CC=C1)C#C | C8H6
reactant | 3,5-dibromopyridine | 8.65 mmol, 2.05 g | BrC=1C=NC=C(C1)Br | C5H3Br2N
reactant | triethylamine | 60.98 mmol, 8.50 mL | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | bis(triphenylphosphine)palladium | 0.427 mmol, 300 mg | C1([P]([Pd][P](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)=CC=CC=C1
catalyst | copper (I) iodide | 0.840 mmol, 160 mg | [Cu]I
product | 3-Bromo-5-phenylethynyl-pyridine | 710 mg, 32% | BrC=1C=NC=C(C1)C#CC1=CC=CC=C1 | C13H8BrN
